US08115016B2
To a mixture of 48 g dicyclohexylcarbodiimide, 30 g commercially available L-pyroglutamic acid and 3.1 g hydroxybenzotriazole 20.2 g of morpholine were added in 170 ml dichloromethane at about −15° C. The mixture was allowed to warm to room temperature. The suspension was filtered and diluted with 290 ml THF. The mixture was concentrated to obtain a suspension, which was filtered yielding 41 g of (S)-5-(morpholine-4-carbonyl)pyrrolidin-2-one.

reactant | dicyclohexylcarbodiimide | 48 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | L-pyroglutamic acid | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | hydroxybenzotriazole | 3.1 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
product | (S)-5-(morpholine-4-carbonyl)pyrrolidin-2-one | 41 g | N1(CCOCC1)C(=O)[C@@H]1CCC(N1)=O | C9H14N2O3
